US06897208B2
4 Å molecular sieves are added to a solution of 45.7 mg of (2-benzyl-5-ethoxy-2H-pyrazol-3-yl)methanol in 0.5 ml of dichloromethane, followed by addition of 43.1 mg of pyridinium chlorochromate. After 20 hours at a temperature in the region of 20° C., the reaction mixture is filtered through Celite. The insoluble material formed is rinsed with ethyl acetate and then with dichloromethane. The filtrate is washed with water. After separation of the phases by settling, the aqueous phase is re-extracted with dichloromethane. The organic phases are combined, dried over magnesium sulphate, filtered and then concentrated under reduced pressure. 21.6 mg of 2-benzyl-5-ethoxy-2H-pyrazole-3-carboxaldehyde are thus obtained in the form of a brown lacquer, the characteristics of which are as follows:

reactant | (2-benzyl-5-ethoxy-2H-pyrazol-3-yl)methanol | 45.7 mg | C(C1=CC=CC=C1)N1N=C(C=C1CO)OCC | C13H16N2O2
reactant | pyridinium chlorochromate | 43.1 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 2-benzyl-5-ethoxy-2H-pyrazole-3-carboxaldehyde | 21.6 mg | C(C1=CC=CC=C1)N1N=C(C=C1C=O)OCC | C13H14N2O2
